US05175172
9-Methylene amino-1,2,3,4-tetrahydroacridine
A mixture of 8.40 g. 9-amino-1,2,3,4-tetrahydroacridine and 4.71 g. Trioxan in 200 ml. ethanol in which 1 g. triethylamine had previously been dissolved was heated to reflux for 12 hours under vigorous stirring. The mixture was cooled to room temperature, then filtered. The filtrate was concentrated under reduced pressure and the dry residue was taken up in hot acetonitrile (25 ml.). The solution was filtered when hot and then cooled. The methylenic derivative started to crystallize as yellowish crystals.

reactant | 9-amino-1,2,3,4-tetrahydroacridine | NC=1C2=CC=CC=C2N=C2CCCCC12 | C13H14N2
reactant | Trioxan | O1OOCCC1 | C3H6O3
reactant | ethanol | C(C)O | C2H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 9-Methylene amino-1,2,3,4-tetrahydroacridine | C=NC=1C2=CC=CC=C2N=C2CCCCC12 | C14H14N2
